Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
ERCP with sphincterotomy and stone extraction - ___.

 
History of Present Illness:
___ year-old male presents as transfer from ___ for 
abdominal pain. Pain started at 10 AM yesterday after breakfast. 
Pain was located in epigastric region. After lunch time, the 
patient felt an increased degree of back pain.  Patient then had 
dinner, and his pain became much worse - associated with nausea, 
but no vomiting.  He had subjective fevers but no chills. He 
went to OSH last night and TB and lipase were elevated. CT 
showed large gallbladder. He was transferred to ___ for 
further workup.  At the current time, his pain is much improved 
with pain medication.  Last BM was yesterday morning - no blood, 
and normal in color/caliber.  He is still passing gas. ROS is 
otherwise only positive for occasional reflux.

 
Past Medical History:
PMHx: Duodenal ulcer s/p bleed
.
PSHx: Ex lap/repair of duodenal ulcer > ___ yrs ago (unclear as
to what type of surgery patient had - whether pyloroplasty vs.
reconstruction), repair of L hand tendon, pilonadial cyst and
sinus tract excision.

 
Social History:
___
Family History:
Paternal GF died of prostate CA, Father died of colon cancer.
 
Physical Exam:
On Admission:
VS: T 98.6, HR 68, BP 139/71, RR 16, 96%RA
GEN: NAD, A&O x 3
HEENT: slight scleral icterus
LUNGS: Clear B/L
CV: RRR, nl S1 and S2
ABD: Soft, NT, ND, midline incision with palpable reducible
hernias, + periumbilical hernia, no groin hernias, no guarding,
no rebound
RECTAL: Guaiac neg, no masses
EXT: no c/c/e

 
Pertinent Results:
On Admission:

___ 05:07AM   LACTATE-1.5
___ 04:55AM   GLUCOSE-104 UREA N-13 CREAT-0.9 SODIUM-141 
POTASSIUM-4.1 CHLORIDE-108 TOTAL CO2-24 ANION GAP-13
___ 04:55AM   ALT(SGPT)-162* AST(SGOT)-197* ALK PHOS-125* 
TOT BILI-3.7*
___ 04:55AM   LIPASE-44
___ 04:55AM   WBC-8.7 RBC-4.31* HGB-13.7* HCT-39.1* MCV-91 
MCH-31.8 MCHC-35.1* RDW-13.5
___ 04:55AM   NEUTS-75.7* ___ MONOS-5.0 EOS-0.5 
BASOS-0.5
___ 04:55AM   PLT COUNT-377
___ 04:55AM   ___ PTT-22.4 ___
.
Prior to Discharge:

___ 06:40AM BLOOD WBC-6.5
___ 06:40AM BLOOD ALT-213* AST-85* LD(LDH)-178 AlkPhos-207* 
TotBili-1.3
.
___ Liver/Gallbladder U/S:
1. Multiple small gallstones in the dependent portion of a 
mildly
distended gallbladder. Normal gallbladder wall. No 
pericholecystic fluid. No intrahepatic biliary ductal 
dilatation. 
2. Nonspecific findings, cannot exclude acute cholecystitis. 
Recommend clinical correlations. If clinically indicated, a HIDA 
scan may be performed. 
.
___ MRCP (MR ABD ___: Radiologist reading pending.
.
ERCP (___):
Cannulation of the biliary duct was difficult due to Billroth II 
anatomy. Multiple attempts with standard catheters were unable 
to achieve deep cannulation. A small pre-cut needle 
sphincterotomy was performed. Cannulation was successful and 
deep with a ___ tapered catheter using a free-hand technique. 
Contrast medium was injected resulting in complete 
opacification.  A single 5 mm round stone that was causing 
partial obstruction was seen at the upper third of the common 
bile duct.  After the small pre-cut needle knife sphincterotomy 
and cannulation a 10mm wire guided CRE balloon was introduced 
for dilation biliary sphincteroplasty and the diameter was 
progressively increased to 12 mm successfully.  2 stones were 
extracted successfully using a balloon catheter. Partial 
pancreatogram was normal. 
.
MICROBIOLOGY:
___ ER Blood culture: No growth to date.
 
Brief Hospital Course:
The patient was admitted to the ___ Surgical Service on 
___ for evaluation of the aforementioned problem.  He was 
made NPO, started on IV fluids, and given Dilaudid IV PRN for 
pain with good effect. An MRCP performed on ___ revealed a 
dilated gallbladder, but no stones were visulaized in the 
biliary tree. On ___, the patient underwent an ERCP with 
sphincterotomy and extraction of 2 small stones from the common 
bile duct, which went well without complication.
.
The next morning, follow-up liver function tests were improved, 
and the patient was started on a diet of clears, which was later 
advanced to a regular diet with good tolerability. He was not 
experiencing any significant pain. He voided regularly with good 
output. He ambulated early and frequently, was adherent with 
respiratory toilet, and had a bowel movement.
.
At the time of discharge, the patient was doing well, afebrile 
with stable vital signs.  The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled.  He was discharged home without services. Dr. ___ 
(___) has recommended probable open 
cholecystectomy, at which time his large ventral hernia would be 
repaired. The patient's other option is referral within the ___ 
___ system for surgical consultation and treatment of this 
issue. The patient will follow-up with ___, NP (PCP at 
___), with whom he will discuss surgical 
recommendations and decide on a course of treatment. The patient 
received discharge teaching and follow-up instructions with 
understanding verbalized and agreement with the discharge plan.
 
Medications on Admission:
None
 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for constipation.
Disp:*30 Capsule(s)* Refills:*0*
2. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO every ___ 
hours as needed for fever or pain.  
3. Dilaudid 2 mg Tablet Sig: One (1) Tablet PO Q3-4HOURS: PRN as 
needed for pain.
Disp:*10 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Choledocholithiasis

 
Discharge Condition:
Mental Status:Clear and coherent
Level of Consciousness:Alert and interactive
Activity Status:Ambulatory - Independent

 
Discharge Instructions:
Please resume all regular home medications , unless specifically 
advised not to take a particular medication.  Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.  Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

Please follow-up with your surgeon and Primary Care Provider 
(PCP) as advised.
 
Followup Instructions:
___